US08871934B2
(+)-2-hydroxymethyl-2-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propane-1,3-diol
To a solution of an optically active form (15.5 g) of 3-hydroxy-2-hydroxymethyl-2-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propionic acid in tetrahydrofuran (31 ml) was added dropwise at room temperature a 1.09M solution (127 ml) of borane-tetrahydrofuran complex in tetrahydrofuran, and the mixture was stirred for 5 hr. To the reaction mixture was added dropwise ethanol (15 ml) at room temperature and the mixture was stirred at 75° C. for 1 hr. To this mixture were added water (90 ml) and saturated aqueous sodium hydrogen carbonate (150 ml), and the mixture was extracted twice with ethyl acetate (150 ml, 75 ml). The combined organic layer was successively washed once with saturated aqueous sodium hydrogen carbonate (75 ml), twice with water (75 ml) and once with saturated brine (75 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. To a solution of the obtained residue in ethanol (45 ml) was added sodium borohydride (1.3 g) at room temperature, and the mixture was stirred for 1 hr. To the reaction mixture was added 1N hydrochloric acid (150 ml), and the mixture was extracted with ethyl acetate (150 ml). The separated aqueous layer was extracted again with ethyl acetate (75 ml). The combined organic layer was successively washed with water (75 ml), saturated aqueous sodium hydrogen carbonate (75 ml), water (75 ml) and saturated brine (75 ml), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent: chloroform/methanol=20/1 to 10/1) to give the title compound (12.6 g).

reactant | 3-hydroxy-2-hydroxymethyl-2-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propionic acid | 15.5 g | OCC(C(=O)O)(N1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)C)CO | C22H19F3N2O5
reactant | ethanol | 15 ml | C(C)O | C2H6O
reactant | water | 90 ml | O | H2O
reactant | sodium hydrogen carbonate | 150 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 31 ml | O1CCCC1 | C4H8O
product | (+)-2-hydroxymethyl-2-[4-(9-hydroxy-2-methyl-9-trifluoromethyl-9H-fluoren-4-yl)-pyrazol-1-yl]-propane-1,3-diol | 12.6 g | OCC(CO)(CO)N1N=CC(=C1)C1=CC(=CC=2C(C3=CC=CC=C3C12)(C(F)(F)F)O)C | C22H21F3N2O4
